US08242104B2
Step 6: 2-[2-(4-Chloro-6-methoxy-pyridin-3-yl)-4-(2-isopropyl-5-methyl-2H-[1,2,4]triazol-3-yl)-imidazol-1-yl]-ethanol
A suspension of 4-chloro-5-[4-(2-isopropyl-5-methyl-2H-[1,2,4]triazol-3-yl)-1H-imidazol-2-yl]-2-methoxy-pyridine (5.9 g, 17.7 mmol) in toluene (20 mL) was treated with ethylene carbonate (50 mL) and heated at 130° C. for 2.5 h. The cooled reaction mixture was concentrated in vacuo then diluted with DCM and passed through a pad of silica eluting with DCM then 20% methanol in DCM. Methanolic fractions were combined and concentrated in vacuo and the resultant residue subjected to recrystallisation from acetonitrile to give the title compound as a pale tan solid (2.27 g, 34%). LCMS: RT=2.53 min [M+H]+=377/379. 1H NMR 400 MHz (CDCl3) δ: 8.25 (1H, s), 8.05 (1H, s), 6.92 (1H, s), 5.82-5.80 (1H, m), 4.00 (3H, s), 3.97 (2H, t, J=4.92 Hz), 3.88 (2H, t, J=4.92 Hz), 2.38 (3H, s), 1.48 (6H, d, J=6.63 Hz).

reactant | 4-chloro-5-[4-(2-isopropyl-5-methyl-2H-[1,2,4]triazol-3-yl)-1H-imidazol-2-yl]-2-methoxy-pyridine | 17.7 mmol, 5.9 g | ClC1=CC(=NC=C1C=1NC=C(N1)C=1N(N=C(N1)C)C(C)C)OC | C15H17ClN6O
reactant | ethylene carbonate | 50 mL | C1(OCCO1)=O | C3H4O3
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[2-(4-Chloro-6-methoxy-pyridin-3-yl)-4-(2-isopropyl-5-methyl-2H-[1,2,4]triazol-3-yl)-imidazol-1-yl]-ethanol | 2.27 g, 34% | ClC1=C(C=NC(=C1)OC)C=1N(C=C(N1)C=1N(N=C(N1)C)C(C)C)CCO | C17H21ClN6O2
